US09255090B2
Synthesis of 9-Fluoro-2,3,4,5-tetrahydro-1H-benzo[d]azepin-6-ol (C10H12NOF, MW=181.09)
To a solution of 2,2,2-trifluoro-1-(6-fluoro-9-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone (1.22 g, 4.19 mmol, 1 eq.) in DCM (50 mL), 1M boron tribromide solution in dichloromethane (8.38 mL) was added. The mixture was stirred at r.t. for 2 hours. The reaction was carefully quenched with 2N aq. NaOH soln. (50 mL) and stirred at r.t. for 30 min. The reaction mixture was washed with DCM (2×50 mL). The aq. layer was concentrated in vacuo. The residue was purified by prep. HPLC (column: Water X-Bridge, 30×75 mm, 10 um, UV/MS, basic conditions) and concentrated in vacuo to give the desired product.

reactant | 2,2,2-trifluoro-1-(6-fluoro-9-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone | 4.19 mmol, 1.22 g, 1 eq. | FC(C(=O)N1CCC2=C(CC1)C(=CC=C2OC)F)(F)F | C13H13F4NO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 8.38 mL | ClCCl | CH2Cl2
product | 9-Fluoro-2,3,4,5-tetrahydro-1H-benzo[d]azepin-6-ol | FC1=CC=C(C2=C1CCNCC2)O | C10H12FNO
